US07226644B2
23 g of sodium hydroxide was added to 229 g of 1-(3-methyl-3-hydroxy-1-butynyl)-2,3,4-trifluorobenzene, and then stirred for 1 hour at 120° C., while acetone that is produced is distilled off using an atmospheric distillation device. This was purified by distillation under a reduced pressure (101 to 108° C./34 kPa (256 mmHg)) to obtain 110 g of 1-ethynyl-2,3,4-trifluorobenzene as an almost colorless oily material.

reactant | sodium hydroxide | 23 g | [OH-].[Na+]
reactant | 1-(3-methyl-3-hydroxy-1-butynyl)-2,3,4-trifluorobenzene | 229 g | CC(C#CC1=C(C(=C(C=C1)F)F)F)(C)O | C11H9F3O
solvent | acetone | CC(=O)C | C3H6O
product | 1-ethynyl-2,3,4-trifluorobenzene | 110 g | C(#C)C1=C(C(=C(C=C1)F)F)F | C8H3F3
